US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-[(5-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AT using Ethyl 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3,4-oxadiazole-2-carboxylate (30 mg, 0.07 mmol), 1-(1-methylpiperidin-4-yl)piperazine (26 mg, 0.14 mmol) and trimethylaluminium (2 M in toluene, 0.07 mL) in DCE (5 mL). A portion of the crude product was purified using FCC, eluting with 95:4.5:0.5 DCM:MeOH:NH3.

reactant | Ethyl 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.07 mmol, 30 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=NN=C(O1)C(=O)OCC | C18H23N3O6S
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 0.14 mmol, 26 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | trimethylaluminium | 2 M, 0.07 mL | C[Al](C)C
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-[(5-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC(=NN1)C(=O)N1CCN(CC1)C1CCN(CC1)C | C26H38N6O5S
